US08466114B2
To a stirred solution of 6-(2-bromo-5-iodo-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine (9.4 g, 21.86 mmol) in DMF (50 mL) was added potassium carbonate (6.04 g, 43.71 mmol), benzyl bromide (3.2 mL, 26.23 mmol) and the mixture was heated to 50° C. overnight. The reaction mixture was cooled to room temperature, quenched by the addition of water (100 mL), then extracted with ethyl acetate (3×50 mL). The organic layers were combined then washed with water (50 mL), brine (50 mL), dried over sodium sulfate, and concentrated to a residue which was purified by silica gel column chromatography to furnish 4-benzyl-6-(2-bromo-5-iodo-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine (10.5 g).

reactant | 6-(2-bromo-5-iodo-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 21.86 mmol, 9.4 g | BrC1=C(CC=2C=CC3=C(NCCO3)C2)C=C(C=C1)I | C15H13BrINO
reactant | potassium carbonate | 43.71 mmol, 6.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 26.23 mmol, 3.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-benzyl-6-(2-bromo-5-iodo-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 10.5 g | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)CC2=C(C=CC(=C2)I)Br | C22H19BrINO
